US07432288B2
1-(2-Methoxyethyl)-3-[(4-morpholin-4-ylphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione
3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione (0.26 mmol, 70 mg) and 4-morpholinoaniline (0.53 mmol, 94 mg) was dissolved in dry CH3CN (2 mL) and the reaction mixture was subjected to microwave heating single node 130° C. for 10 min and purified on SiO2 (EtOAc:heptane, 1:1) to give 96 mg (89%) of the title compound. 1H NMR (400 MHz, CD3CN) δ 7.73 (bs, 1H), 7.17-7.04 (m, 3H), 6.98-6.93 (m, 2H), 6.70-6.64 (m, 2H), 6.59-6.54 (m, 2H), 3.75-3.70 (m, 6H), 3.58 (t, J=5.6 Hz, 2H), 3.33 (s, 3H), 2.98-2.95 (m, 4H).

reactant | 3-Chloro-1-(2-methoxyethyl)-4-phenyl-1H-pyrrole-2,5-dione | 0.26 mmol, 70 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CCOC)=O | C13H12ClNO3
reactant | 4-morpholinoaniline | 0.53 mmol, 94 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 1-(2-Methoxyethyl)-3-[(4-morpholin-4-ylphenyl)amino]-4-phenyl-1H-pyrrole-2,5-dione | 96 mg, 89% | COCCN1C(C(=C(C1=O)C1=CC=CC=C1)NC1=CC=C(C=C1)N1CCOCC1)=O | C23H25N3O4
